US05232924
Synthesis of 2-[2-[4-[Bis(4-methoxyphenyl)methylene]piperidin-1-yl]ethyl]-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one Hydrochloride Monohydrate
2-(2-Chloroethyl)-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]-pyridin-3(2H)-one (2.08 g), 3.1 g of sodium iodide and 100 mλ of acetonitrile were refluxed for 30 minutes, and 3.1 g of 4-[bis(4-methoxyphenyl)methylene]piperidine and 2.8 g of potassium carbonate were added thereto, followed by refluxing for 18 hours. The insoluble material was removed by filtration, and the filtrate was concentrated to dryness under reduced pressure. The residue was dissolved in 100 mλ of chloroform, and the solution was applied to a column contained with 130 g of silica gel and eluted with a 15:1 (by volume) mixture of chloroform and ethanol. The eluate was concentrated to dryness, and the resulting residue was dissolved in ethanol, of concentrated hydrochloric acid was added thereto, followed by concentration to dryness. The residue was recrystallized from a mixture of ethanol and ethyl ether to obtain 0.85 g of the entitled compound as colorless crystals.

reactant | 2-(2-Chloroethyl)-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]-pyridin-3(2H)-one | 2.08 g | ClCCN1N=C2N(CCCC2)C1=O | C8H12ClN3O
reactant | sodium iodide | 3.1 g | [I-].[Na+]
reactant | 4-[bis(4-methoxyphenyl)methylene]piperidine | 3.1 g | COC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)OC | C20H23NO2
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[2-[4-[Bis(4-methoxyphenyl)methylene]piperidin-1-yl]ethyl]-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one Hydrochloride Monohydrate | 0.85 g | O.Cl.COC1=CC=C(C=C1)C(=C1CCN(CC1)CCN1N=C2N(CCCC2)C1=O)C1=CC=C(C=C1)OC | InChI=1S/C28H34N4O3.ClH.H2O/c1-34-24-10-6-21(7-11-24)27(22-8-12-25(35-2)13-9-22)23-14-17-30(18-15-23)19-20-32-28(33)31-16-4-3-5-26(31)29-32;;/h6-13H,3-5,14-20H2,1-2H3;1H;1H2
